US09302989B2
N-[4-(4-oxo-3,4-dihydrophthalazin-1-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide
105 mg N-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)isoindoline-2-carboxamide (0.288 mmol) and 53 mg 4-chloro-1,2-dihydrophthalazin-1-one (0.288 mmol) were dissolved in 2.5 ml dioxane. Cesium carbonate (474 mg, 1.44 mmol) was dissolved in 0.25 ml water and the resulting solution added to the reaction mixture. After the addition of 27.8 mg [1,1′-bis(diphenylphosphino)-ferrocene]dichlorpalladium(II) (0.038 mmol) the reaction mixture was flushed with nitrogen and stirred for 30 minutes in the microwave (Biotage Initiator 2.5) at 110° C. Dioxane was removed under reduced pressure, water and dichloromethane added to the residue and the formed precipitation was filtered. After dissolving the solid matter in a larger amount of dichloromethane/methanol 8:2, silica gel was added and subsequently the solvent was removed under reduced pressure. This residue was was purified by column chromatography using dichloromethane/methanol 95:5. 1H NMR (DMSO-d6, 400 MHz): 6 ppm 12.73 (s, 1H), 8.55 (s, 1H), 8.33 (dd, 1H), 7.85-7.92 (m, 2H), 7.73-7.78 (m, 3H), 7.48 (d, 2H), 7.35-7.38 (m, 2H), 7.30-7.33 (m, 2H), 4.81 (s, 4H). MS (ESI(−)) m/e 383.2 (M+H)+.

reactant | N-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)isoindoline-2-carboxamide | 0.288 mmol, 105 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1)C | C21H25BN2O3
reactant | 4-chloro-1,2-dihydrophthalazin-1-one | 0.288 mmol, 53 mg | ClC1=NNC(C2=CC=CC=C12)=O | C8H5ClN2O
reactant | Cesium carbonate | 1.44 mmol, 474 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.25 ml | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichlorpalladium(II) | 0.038 mmol, 27.8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[4-(4-oxo-3,4-dihydrophthalazin-1-yl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide | O=C1NN=C(C2=CC=CC=C12)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C23H18N4O2
